US05462952
5-[2-[[3-(Trifluoromethyl)phenyl]amino]phenyl]-1,3,4-oxadiazol-2(3H)-thione
Potassium hydroxide (123.0 mg, 1.87 mmol) is added to a 020 C. solution of 2-[(3-trifluoromethylphenyl)amino]-benzoic acid, hydrazide (515.8 mg, 1.75 mmol) and carbon disulfide (250 μl, 3.96 mmol) in 15 ml of methanol. The mixture is heated at reflux overnight. The solution is concentrated in vacuo and the residue dissolved in water. The resulting aqueous solution is acidified with 1N hydrochloric acid and the resulting solids extracted into a 1:1 mixture of ether and ethyl acetate. The organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is chromatographed, eluting with hexane:ethyl acetate (1:1), providing a white solid. Drying in vacuo at 65° C. overnight gives 406.4 mg (69%) of product, mp 211°-213° C.

reactant | Potassium hydroxide | 1.87 mmol, 123.0 mg | [OH-].[K+]
reactant | 2-[(3-trifluoromethylphenyl)amino]-benzoic acid, hydrazide | 1.75 mmol, 515.8 mg | FC(C=1C=C(C=CC1)NC1=C(C(=O)NN)C=CC=C1)(F)F | C14H12F3N3O
reactant | carbon disulfide | 3.96 mmol, 250 μl | C(=S)=S | CS2
solvent | methanol | 15 ml | CO | CH4O
product | 5-[2-[[3-(Trifluoromethyl)phenyl]amino]phenyl]-1,3,4-oxadiazol-2(3H)-thione | 406.4 mg, 69% | FC(C=1C=C(C=CC1)NC1=C(C=CC=C1)C1=NNC(O1)=S)(F)F | C15H10F3N3OS
